US05109012
4,5-Dicyanoimidazole (23.6 g) was dissolved in sodium hydroxide solution (0.1N, 500 ml) with stirring and then bromine (36 ml) was added dropwise with stirring at room temperature. The mixture was stirred at room temperature overnight and the resulting solid was filtered, washed with water and dried to give 2-bromo-4,5-dicyanoimidazole m.p. 141°-144°. This compound (20 g) in dimethylformamide (100 ml) was added with stirring to a suspension of sodium hydride (80% dispersion in oil, 3.05 g) in dimethylformamide (100 ml) at room temperature. The mixture was cooled to 5° and chloromethyl 2-trimethylsilylethyl ether (18 ml) was added dropwise with stirring. This mixture was allowed to stand at room temperature overnight and was then poured into water and extracted with ethyl acetate. Evaporation of solvent gave an oil which was purified by column chromatography to give 1-(2-trimethylsilylethoxymethyl)-2-bromo-4,5-dicyano-1H-imidazole m.p.47°-52°. In a similar manner, the following were obtained: 1-benzyl- 2-bromo-4,5-dicyano-1H-imidazole, nD23 : 1.601, and 1-allyl-2-bromo-4,5-dicyano-1H-imidazole, m.p. 85°-87°.

reactant | 4,5-Dicyanoimidazole | 23.6 g | C(#N)C=1N=CNC1C#N | C5H2N4
reactant | bromine | 36 ml | BrBr | Br2
solvent | sodium hydroxide | 0.1N, 500 ml | [OH-].[Na+]
product | 2-bromo-4,5-dicyanoimidazole | BrC=1NC(=C(N1)C#N)C#N | C5HBrN4
